US07109222B2
Preparation of 5-Dimethylthiocarbamoyloxy-benzofuran-2-carboxylic acid methyl ester (compound 6B)
A solution of 5-hydroxy-benzofuran-2-carboxylic acid methyl ester (2 g, 10 mmol) in 50 mL dry DMF was treated portionwise with NaH (252 mg of a 95% dispersion in mineral oil, 10 mmol). After 30 min, dimethylthiocarbamoyl chloride (1.9 g, 15 mmol) was added and the reaction stirred at 40° C. for 1.5 hours. The reaction mixture was then concentrated in vacuo, and the residue taken up in EtOAc. The organic layer was then washed 1×water, 1×brine, dried (Na2SO4) and the solvent removed in vacuo to give 3.5 g of the crude title compound. Recrystallization from CHCl3/hexanes, gave 1.3 g (45%) of the title compound. 400 MHz 1H NMR (DMSO-d6) δ 7.72 (s, 1H), 7.68 (d, 1H, J=9.8 Hz), 7.43 (s, 1H), 7.17 (d, 1H,J=9.8 Hz), 3.85 (s, 3H), 3.32 (s, 3H), 3.29 (s, 3H).

reactant | 5-hydroxy-benzofuran-2-carboxylic acid methyl ester | 10 mmol, 2 g | COC(=O)C=1OC2=C(C1)C=C(C=C2)O | C10H8O4
reactant | NaH | [H-].[Na+]
reactant | dimethylthiocarbamoyl chloride | 15 mmol, 1.9 g | CN(C(=S)Cl)C | C3H6ClNS
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 5-Dimethylthiocarbamoyloxy-benzofuran-2-carboxylic acid methyl ester | 1.3 g, 45% | COC(=O)C=1OC2=C(C1)C=C(C=C2)OC(N(C)C)=S | C13H13NO4S
